US06211234B1
A mixture of methyl (RS)-5-(3-benzyloxy-phenyl)-4-(3-methylpyrid-4-yl)-5-oxopentanoate (3.26 g), dioxan (50 mL), water (9 mL) and concentrated hydrochloric acid (6 mL) is stirred at 60° C. for 1 hour and then evaporated to dryness under reduced pressure. The residue is treated with saturated aqueous sodium bicarbonate solution to give a solution of pH 7 and extracted with ethyl acetate. Evaporation, followed by crystallisation from a mixture of ethyl acetate and pentane affords (RS)-5-(3-benzyloxyphenyl)-4-(3-methylpyrid-4-yl)-5-oxopentanoic acid (1.56 g) in the form of a cream coloured solid, m.p. 55-57° C. [Elemental analysis:- C,73.7;H,5.92; N,3.41%. Calculated:- C,74.0;H,5.95;N,3.60%].

reactant | methyl (RS)-5-(3-benzyloxy-phenyl)-4-(3-methylpyrid-4-yl)-5-oxopentanoate | 3.26 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC(=O)OC)C1=C(C=NC=C1)C)=O | C25H25NO4
reactant | dioxan | 50 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric acid | 6 mL | Cl | ClH
solvent | water | 9 mL | O | H2O
product | (RS)-5-(3-benzyloxyphenyl)-4-(3-methylpyrid-4-yl)-5-oxopentanoic acid | 1.56 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C(C(CCC(=O)O)C1=C(C=NC=C1)C)=O | C24H23NO4
